US04757070
3-(4-Acetoxymethylindol-3-yl)-2-amino-4-methoxy-butyric acid ethyl ester
3-(4-acetoxymethylindol-3-yl)-2-nitro-4-methoxy-butyric acid ethyl ester (226 g) is hydrogenated in ethanol (2.3 l) with Raney nickel as catalyst under hydrogen of normal pressure without addition of heat. 3 mol of hydrogen is taken up in 31/2 hours, whereby the temperature reaches a maximum of 45° C. After filtering of the catalyst and evaporation of the residue, the raw product is chromatographed on silica gel with a mixture of dichloromethane (97.5%) and ethanol (2.5%). 130 g of the title compound as noncrystalline diastereomeric mixture is obtained.

reactant | 3-(4-acetoxymethylindol-3-yl)-2-nitro-4-methoxy-butyric acid ethyl ester | 226 g | C(C)OC(C(C(COC)C1=CNC2=CC=CC(=C12)COC(C)=O)[N+](=O)[O-])=O | C18H22N2O7
reactant | hydrogen | 3 mol | [H][H] | H2
solvent | ethanol | 2.3 l | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 3-(4-Acetoxymethylindol-3-yl)-2-amino-4-methoxy-butyric acid ethyl ester | 130 g | C(C)OC(C(C(COC)C1=CNC2=CC=CC(=C12)COC(C)=O)N)=O | C18H24N2O5
